US04544621
N-(chloromethylcarbonyloxyethyl)dimethylmaleimide
With stirring, 169.2 g (1 mole) of N-(2-hydroxyethyl)dimethylmaleimide, 113.4 g (1.2 moles) of chloroacetic acid and 11.8 g of concentrated sulfuric acid are heated to reflux in 1000 ml of toluene using a water separator. The formation of water ceases after about 2 hours and 18 ml have separated. The reaction solution is washed with saturated sodium bicarbonate solution and water. The organic phase is dried over magnesium sulfate and concentrated in a rotary evaporator at 40° C. The residue is dried for 2 hours at 60° C./0.1 mm, affording 206 g of a colourless liquid.

reactant | N-(2-hydroxyethyl)dimethylmaleimide | 1 mole, 169.2 g | OCCN1C(C(=C(C1=O)C)C)=O | C8H11NO3
reactant | chloroacetic acid | 1.2 moles, 113.4 g | ClCC(=O)O | C2H3ClO2
reactant | sulfuric acid | 11.8 g | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | N-(chloromethylcarbonyloxyethyl)dimethylmaleimide | 206 g | ClCC(=O)OCCN1C(C(=C(C1=O)C)C)=O | C10H12ClNO4
